US04599198
A. N-(t-butoxycarbonyl)-L-Isoleucinal
A mixture of L-isoleucine methyl ester (24.3 g., 0.134 mmoles) and triethylamine (13.5 g., 0.134 mmoles) in methylene chloride (210 ml.) was prepared and a solution of ditertbutyldicarbonate (Aldrich, 29.1 g., 0.134 mmoles) in methylene chloride (25 ml.) was added dropwise to this mixture at 0° C. After completion of this addition, the mixture was allowed to warm to room temperature overnight and was then filtered. The filtrate was washed successively with water (1×100 ml.) and a saturated sodium bicarbonate solution (1×75 ml.), dried over magnesium sulfate and evaporated to yield N-(t-butoxycarbonyl)-L-isoleucine methyl ester as an oil [30.7 g.; 93% yield; 1H-NMR (CDCl3): delta 0.92 (d, J=7,6H), 1.43 (s, 9H), 3.70 (s, 3H), 4.17 (dd, J=5, 9, 1H), 5.03 (d, J=9, 1H)]. A solution of the N-(t-butoxycarbonyl)-L-isoleucine methyl ester oil (15.0 g., 61.1 mmoles) in dry toluene (260 ml.) was cooled to -78° C., and a 1M solution of diisobutyl aluminum hydride in hexane (153 ml.) was added dropwise thereto at such a rate that the temperature of the exothermic reaction did not exceed -65° C. Following 15 minutes of addition stirring at -78° C. after completion of this addition, the mixture was carefully quenched with 15 ml. of methanol (the mixture temperature was not allowed to exceed -65° C.) followed by 200 ml. of Rochelle salt solution. After warming to room temperature, the organic layer was separated and extracted with ether (3×200 ml.); additional Rochelle salt solution was added when necessary to dissolve the aluminum salts. The combined organic extract was dried over sodium sulfate and evaporated to afford a crude product as an oil. The oil was stored at -78° C. to avoid possible racemization and was used without purification in the next step [132 g., 98% yield, Rf=0.32 in 35% ether in hexane; 1H-NMR (CDCl3): delta 1.00 (d, J=7,6H), 1.46 (s, 9H), 9.65 (s, 1H)].

reactant | N-(t-butoxycarbonyl)-L-isoleucine methyl ester | 61.1 mmoles, 15.0 g | COC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C12H23NO4
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 153 ml | CCCCCC | C6H14
product | N-(t-butoxycarbonyl)-L-Isoleucinal | 98% yield | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C=O | C11H21NO3
